US07683168B2
Imidazole (18.15 g) was added to the solution of 2-(ethylamino)ethanol (9.14 g) in CH2Cl2 (200 mL) at room temperature. The mixture was stirred for 10 minutes until all imidazole were dissolved. The solution was cooled in ice bath for 20 minutes. Chlorotriethylsilane (15.46 g) was added to the solution via a syringe. The solution was stirred under nitrogen for overnight, while it was warmed up to room temperature. The reaction solution was washed by H2O (150 mL×3), brine (150 mL×1), dried by Na2SO4 and concentrated to give crude ethyl-(2-triethylsilanyloxy-ethyl)-amine (21.94 g), which was used in next step without further purification. 1H NMR (300 MHz, DMSO-d6) □ 3.58 (t, 2H, J=6.0 Hz), 2.53 (m, 4H), 1.41 (s, 1H), 0.93 (m, 12H), 0.54 (q, 6H, J=8.0 Hz).

reactant | Imidazole | 18.15 g | N1C=NC=C1 | C3H4N2
reactant | 2-(ethylamino)ethanol | 9.14 g | C(C)NCCO | C4H11NO
reactant | Chlorotriethylsilane | 15.46 g | Cl[Si](CC)(CC)CC | C6H15ClSi
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | ethyl-(2-triethylsilanyloxy-ethyl)-amine | 21.94 g | C(C)NCCO[Si](CC)(CC)CC | C10H25NOSi
